### PR TITLE
refactor(RingTheory/Polynomial/SmallDegreeVieta): convert to {p : R[X]} (hp : p.natDegree = 2)

### PR DESCRIPTION
**Pull request by mans0954**
Convert `RingTheory/Polynomial/SmallDegreeVieta` from `{a b c : R} (C a * X ^ 2 + C b * X + C c)` to `{p : R[X]} (hp : p.natDegree = 2)`

(see [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/discriminants.20of.20low.20degree.20polynomials/with/538010519))

---

- [x] depends on: #29981

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/Degree/SmallDegree.lean [hunk 1]
```diff
@@ -46,6 +46,21 @@ theorem Monic.eq_X_add_C (hm : p.Monic) (hnd : p.natDegree = 1) : p = X + C (p.c
...
+      coeff_X_pow, OfNat.zero_ne_ofNat, ↓reduceIte, mul_zero, coeff_X_zero, add_zero,
+      zero_add]) fun n₂ =>
+      Nat.casesOn n₂ (by simp [coeff_C]) fun n₃ =>
+        Nat.casesOn n₃ (by simp) fun m => by
+          have : degree p < m.succ.succ.succ := lt_of_le_of_lt hp (compare_gt_iff_gt.mp rfl)
+          simp [coeff_eq_zero_of_degree_lt this]
+
+theorem eq_quadratic_of_natDegree_le_two (hp : natDegree p ≤ 2) :
+    p = C (p.coeff 2) * X ^ 2 + C (p.coeff 1) * X + C (p.coeff 0) :=
+  eq_quadratic_of_degree_le_two  <| degree_le_of_natDegree_le hp
```
Comment (kckennylau) [inline Mathlib/Algebra/Polynomial/Degree/SmallDegree.lean]:
```suggestion
  eq_quadratic_of_degree_le_two <| degree_le_of_natDegree_le hp
```

**Comment by vihdzp** [comment]
Mirroring what I said on Zulip, but I'd prefer to see `p.degree = 2` instead. It's generally easier to convert statements about `degree` into statements about `natDegree` than the other way around.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 2]
```diff
@@ -16,88 +16,97 @@ namespace Polynomial
...
-    b = -a * (x1 + x2) := by
-  let p : R[X] := C a * X ^ 2 + C b * X + C c
-  have hp_natDegree : p.natDegree = 2 := le_antisymm natDegree_quadratic_le
-    (by convert p.card_roots'; rw [hroots, Multiset.card_pair])
-  have hp_roots_card : p.roots.card = p.natDegree := by
-    rw [hp_natDegree, hroots, Multiset.card_pair]
-  simpa [leadingCoeff, hp_natDegree, p, hroots, mul_assoc, add_comm x1] using
-    coeff_eq_esymm_roots_of_card hp_roots_card (k := 1) (by simp [hp_natDegree])
+lemma eq_neg_mul_add_of_roots_quadratic_eq_pair [CommRing R] [IsDomain R] {x1 x2 : R} {p : R[X]}
+    (hp : p.degree = 2) (hroots : p.roots = {x1, x2}) : p.coeff 1 = -p.coeff 2 * (x1 + x2) := by
```
Comment (JovanGerb) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean]: This lemma should assume `p.degree ≤ 2`, because the original version didn't assume that `a` is nonzero either.

Comment (mans0954) [reply Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean]: Sorted, thanks.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 3]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
-    (hroots : (C a * X ^ 2 + C b * X + C c).roots = {x1, x2}) :
-    b = -a * (x1 + x2) := by
-  let p : R[X] := C a * X ^ 2 + C b * X + C c
-  have hp_natDegree : p.natDegree = 2 := le_antisymm natDegree_quadratic_le
-    (by convert p.card_roots'; rw [hroots, Multiset.card_pair])
-  have hp_roots_card : p.roots.card = p.natDegree := by
-    rw [hp_natDegree, hroots, Multiset.card_pair]
-  simpa [leadingCoeff, hp_natDegree, p, hroots, mul_assoc, add_comm x1] using
-    coeff_eq_esymm_roots_of_card hp_roots_card (k := 1) (by simp [hp_natDegree])
+lemma eq_neg_mul_add_of_roots_quadratic_eq_pair [CommRing R] [IsDomain R] {x1 x2 : R} {p : R[X]}
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:26]:
```suggestion
lemma eq_neg_mul_add_of_degree_two_of_roots_eq_pair [CommRing R] [IsDomain R] {x1 x2 : R} {p : R[X]}
```
Similarly below, I suggest to replace `quadratic` by `degree_two`.

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 4]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
+    (hp : p.degree ≤ 2) (hroots : p.roots = {x1, x2}) : p.coeff 1 = -p.coeff 2 * (x1 + x2) := by
+  have hn : p ≠ 0 := by
+    by_contra hc
+    simp_all only [degree_zero, bot_le, roots_zero, Multiset.insert_eq_cons, Multiset.zero_ne_cons]
+  have c2 : 2 = p.roots.card := by
+    rw [hroots, Multiset.card_pair]
+  have hp_roots_card : p.roots.card = p.degree := le_antisymm (Polynomial.card_roots hn)
+    (le_of_eq_of_le' (congrArg Nat.cast (id c2)) hp)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean]: Could you please turn this into a separate lemma and then use this lemma here and below?

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 5]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
 /-- **Vieta's formula** for quadratics as an iff (`Field` version). -/
-lemma roots_quadratic_eq_pair_iff_of_ne_zero' [Field R] {a b c x1 x2 : R} (ha : a ≠ 0) :
-    (C a * X ^ 2 + C b * X + C c).roots = {x1, x2} ↔
-      x1 + x2 = -b / a ∧ x1 * x2 = c / a := by
-  rw [roots_quadratic_eq_pair_iff_of_ne_zero ha]
+lemma roots_quadratic_eq_pair_iff_of_ne_zero' [Field R] {p : R[X]} {x1 x2 : R}
+    (hp : p.degree = 2) : p.roots = {x1, x2} ↔
+      x1 + x2 = -(p.coeff 1) / (p.coeff 2) ∧ x1 * x2 = (p.coeff 0) / (p.coeff 2) := by
+  rw [roots_quadratic_eq_pair_iff_of_ne_zero hp]
+  have h0 : (p.coeff 2) ≠ 0 := coeff_ne_zero_of_eq_degree hp
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:112]:
```suggestion
  have h0 : p.coeff 2 ≠ 0 := coeff_ne_zero_of_eq_degree hp
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 6]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
+      p.coeff 1 = -(p.coeff 2) * (x1 + x2) ∧ (p.coeff 0) = (p.coeff 2) * x1 * x2 :=
+  let a := p.coeff 2
+  let b := p.coeff 1
+  let c := p.coeff 0
   have roots_of_ne_zero_of_vieta (hvieta : b = -a * (x1 + x2) ∧ c = a * x1 * x2) :
-      (C a * X ^ 2 + C b * X + C c).roots = {x1, x2} := by
-    suffices C a * X ^ 2 + C b * X + C c = C a * (X - C x1) * (X - C x2) by
+      p.roots = {x1, x2} := by
+    suffices p = C a * (X - C x1) * (X - C x2) by
+      have h0 : (p.coeff 2) ≠ 0 := coeff_ne_zero_of_eq_degree hp
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:90]:
```suggestion
      have h0 : p.coeff 2 ≠ 0 := coeff_ne_zero_of_eq_degree hp
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 7]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
 
 /-- **Vieta's formula** for quadratics as an iff. -/
-lemma roots_quadratic_eq_pair_iff_of_ne_zero [CommRing R] [IsDomain R] {a b c x1 x2 : R}
-    (ha : a ≠ 0) :
-    (C a * X ^ 2 + C b * X + C c).roots = {x1, x2} ↔
-      b = -a * (x1 + x2) ∧ c = a * x1 * x2 :=
+lemma roots_quadratic_eq_pair_iff_of_ne_zero [CommRing R] [IsDomain R] {x1 x2 : R} {p : R[X]}
+    (hp : p.degree = 2) :
+    p.roots = {x1, x2} ↔
+      p.coeff 1 = -(p.coeff 2) * (x1 + x2) ∧ (p.coeff 0) = (p.coeff 2) * x1 * x2 :=
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:83]:
```suggestion
      p.coeff 1 = -(p.coeff 2) * (x1 + x2) ∧ p.coeff 0 = p.coeff 2 * x1 * x2 :=
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 8]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
-    (by convert p.card_roots'; rw [hroots, Multiset.card_pair])
-  have hp_roots_card : p.roots.card = p.natDegree := by
-    rw [hp_natDegree, hroots, Multiset.card_pair]
-  simpa [leadingCoeff, hp_natDegree, p, hroots, mul_assoc, add_comm x1] using
-    coeff_eq_esymm_roots_of_card hp_roots_card (k := 0) (by simp [hp_natDegree])
+lemma eq_mul_mul_of_roots_quadratic_eq_pair [CommRing R] [IsDomain R] {x1 x2 : R} {p : R[X]}
+    (hp : p.degree ≤ 2) (hroots : p.roots = {x1, x2}) : p.coeff 0 = p.coeff 2 * x1 * x2 := by
+  have hn : p ≠ 0 := by
+    by_contra hc
+    simp_all only [degree_zero, bot_le, roots_zero, Multiset.insert_eq_cons, Multiset.zero_ne_cons]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:46]:
```suggestion
  have hn : p ≠ 0 := p.ne_zero_of_mem_roots (show x1 ∈ p.roots by simp [hroots])
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 9]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
-  rw [aroots_def, show map (algebraMap T S) (C a * X ^ 2 + C b * X + C c) = C ((algebraMap T S) a) *
-    X ^ 2 + C ((algebraMap T S) b) * X + C ((algebraMap T S) c) by simp] at haroots
-  exact eq_neg_mul_add_of_roots_quadratic_eq_pair haroots
+    [CommRing T] [CommRing S] [IsDomain S] [Algebra T S] {p : T[X]} {x1 x2 : S}
+    (hp : p.degree ≤ 2) (haroots : p.aroots S = {x1, x2}) :
+    algebraMap T S (p.coeff 1) = -algebraMap T S (p.coeff 2) * (x1 + x2) := by
+  have hn : (map (algebraMap T S) p) ≠ 0 := by
+    by_contra hc
+    rw [aroots_def, hc, roots_zero] at haroots
+    simp_all only [Multiset.insert_eq_cons, Multiset.zero_ne_cons]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:64]:
```suggestion
```

File: Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean [hunk 10]
```diff
@@ -23,88 +23,103 @@ lemma eq_quadratic_of_degree_le_two [Semiring R] {p : R[X]} (hp : p.degree ≤ 2
...
-    algebraMap T S c = algebraMap T S a * x1 * x2 := by
-  rw [aroots_def, show map (algebraMap T S) (C a * X ^ 2 + C b * X + C c) = C ((algebraMap T S) a) *
-    X ^ 2 + C ((algebraMap T S) b) * X + C ((algebraMap T S) c) by simp] at haroots
-  exact eq_mul_mul_of_roots_quadratic_eq_pair haroots
+    {p : T[X]} {x1 x2 : S} (hp : p.degree ≤ 2) (haroots : p.aroots S = {x1, x2}) :
+    algebraMap T S (p.coeff 0) = algebraMap T S (p.coeff 2) * x1 * x2 := by
+  have hn : (map (algebraMap T S) p) ≠ 0 := by
+    by_contra hc
+    rw [aroots_def, hc, roots_zero] at haroots
+    simp_all only [Multiset.insert_eq_cons, Multiset.zero_ne_cons]
```
Comment (chrisflav) [inline Mathlib/RingTheory/Polynomial/SmallDegreeVieta.lean:75]:
```suggestion
```

**Comment by chrisflav** [comment]
> Mirroring what I said on Zulip, but I'd prefer to see `p.degree = 2` instead. It's generally easier to convert statements about `degree` into statements about `natDegree` than the other way around.

The fact that `Polynomial.natDegree_eq_of_degree_eq_some` is now used 6 times in this PR together with auxiliary `p ≠ 0` `have`s, this does not sound very convincing to me.

**Comment by vihdzp** [comment]
I've implemented suggestions and re-opened this at #33831.
